US07109186B2
Compound 861: 4-Hydroxy-1-(2-morpholin-4-yl-ethyl)-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid methoxy-(4-methylcarbamoyl-benzyl)-amide
Reaction 4-({[2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetyl]-methoxy-amino}-methyl)-N-methyl-benzamide (0.053 g, 0.15 mmol) with the paraformaldehyde-N-(2-aminoethyl)morpholine adduct in methanol using a procedure similar to the one described in the preparation of compound 13 gave 0.034 g (41% yield) of the title compound as a white solid after chromatography on reversed phase silica gel. 1HNMR 400 MHz (DMSO-d6) δ (ppm); (TFA salt) 2.77 (3H, d, J=4.65 Hz, NCH3), 3.1 (2H, broad m, NCH2), 3.4–3.8 (8H, broad m, 2×NCH2 and 2×OCH2), 3.75 (3H, s, OCH2), 3.98 (2H, broad, NCH2), 4.24 (2H, s, NCH2), 4.94 (2H, s, NCH2), 7.39 (2H, d, J=8.4 Hz, aromatics), 7.80 (2H, d, J=8.4 Hz, aromatic), 8.41 (1H, q, J=4.5 Hz, NH). HRMS (FAB+) calculated for C21H29N4O6: [M+H]+: 433.208710. found: 433.209419.

reactant | 4-({[2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetyl]-methoxy-amino}-methyl)-N-methyl-benzamide | 0.15 mmol, 0.053 g | CC1(OC(C(O1)=CC(=O)N(OC)CC1=CC=C(C(=O)NC)C=C1)=O)C | C17H20N2O6
reactant | paraformaldehyde N-(2-aminoethyl)morpholine | C=O.NCCN1CCOCC1
solvent | methanol | CO | CH4O
product | 4-Hydroxy-1-(2-morpholin-4-yl-ethyl)-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid methoxy-(4-methylcarbamoyl-benzyl)-amide | 0.034 g, 41% yield | CON(C(=O)C=1CN(C(C1O)=O)CCN1CCOCC1)CC1=CC=C(C=C1)C(NC)=O | C21H28N4O6
